US06333330B1
2-(2-Methoxyethoxy)pyridine-3-carboxylic acid
Potassium t-butoxide (45.0 g, 0.40 mol) was added portion-wise to ice-cold 2-methoxyethanol (175 ml), and the resulting solution added to a suspension of 2-chloronicotinic acid (30.0 g, 0.19 mol) in 2-methoxyethanol (175 ml). The reaction mixture was heated under reflux for 26 hours, then cooled and concentrated under reduced pressure. The residue was diluted with water (200 ml), the pH of the solution adjusted to 5 using concentrated hydrochloric acid, and extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried (MgSO4), evaporated under reduced pressure and azeotroped with toluene, to afford the title compound, (30.54 g, 81%).

reactant | Potassium t-butoxide | 0.40 mol, 45.0 g | CC(C)([O-])C.[K+]
reactant | 2-chloronicotinic acid | 0.19 mol, 30.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-methoxyethanol | 175 ml | COCCO | C3H8O2
product | 2-(2-Methoxyethoxy)pyridine-3-carboxylic acid | 30.54 g, 81% | COCCOC1=NC=CC=C1C(=O)O | C9H11NO4
